US08440702B2
(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-[2-iodo-5-(trifluoromethyl)benzyl]-4-methyl-1,3-oxazolidin-2-one (500 mg, 0.837 mmol) was mixed with (5-bromo-2-fluorophenyl)boronic acid (211 mg, 0.963 mmol), toluene (5 mL), ethanol (278 μL) and sodium carbonate aqueous solution (2M, 0.89 mL, 1.78 mmol). The resulting mixture was stirred at 20° C. for 30 min followed by addition of tetrakis (triphenylphosphine) palladium(0) (43.5 mg, 0.0376 mmol, 4.5 mol %). The reaction mixture was heated in a 90° C. oil bath for 40 hours to complete the reaction. The resulting crude mixture was purified by flash chromatography (SiO2, Biotage 40+M cartridge). The column was eluted by an Ethyl acetate/hexanes mixture. Related fractions were pooled and concentrated in vacuo to afford (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-{[5′-bromo-2′-fluoro-4-(trifluoromethyl)biphenyl-2-yl]methyl}-4-methyl-1,3-oxazolidin-2-one. LCMS calc.=645.02; found=645.94 (M+1)+.

reactant | (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-[2-iodo-5-(trifluoromethyl)benzyl]-4-methyl-1,3-oxazolidin-2-one | 0.837 mmol, 500 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=C(C=CC(=C1)C(F)(F)F)I)C)(F)F | C20H13F9INO2
reactant | (5-bromo-2-fluorophenyl)boronic acid | 0.963 mmol, 211 mg | BrC=1C=CC(=C(C1)B(O)O)F | C6H5BBrFO2
reactant | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
reactant | sodium carbonate | 1.78 mmol, 2M, 0.89 mL | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tetrakis (triphenylphosphine) palladium(0) | 0.0376 mmol, 43.5 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | ethanol | 278 μL | C(C)O | C2H6O
product | (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-{[5′-bromo-2′-fluoro-4-(trifluoromethyl)biphenyl-2-yl]methyl}-4-methyl-1,3-oxazolidin-2-one | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=C(C=CC(=C1)C(F)(F)F)C1=C(C=CC(=C1)Br)F)C)(F)F | C26H16BrF10NO2
